US04481142
9-Chloro-7-(2-chlorophenyl)-6,7-dihydro-5H-pyrimido[5,4-d][2]benzazepine
A mixture of 68 g (0.2 mol) of 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine, 27 g of zinc dust and 250 ml of acetic acid in 600 ml of methylene chloride was stirred at -30° C. for 2 hr. The mixture was filtered over hyflo into a stirred mixture of 600 ml of concentrated ammonium hydroxide and 500 ml of ice. The methylene chloride solution was separated, dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue crystallized from a mixture of methylene chloride and ether to give the product as a colorless solid. Recrystallization from a mixture of ether and methylene chloride gave the product as colorless needles, mp 169°-170° C.

reactant | 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | 0.2 mol, 68 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC=N3)C=C1 | C18H11Cl2N3
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 27 g | [Zn] | Zn
product | 9-Chloro-7-(2-chlorophenyl)-6,7-dihydro-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CNC2C2=C(C=CC=C2)Cl)C=NC=N3)C=C1 | C18H13Cl2N3
